US04621142
(A) 1-[3-[3-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)propoxy]benzoyl]piperidine
To a suspension of 0.09 g. (0.0024 mole) of 60% sodium hydride in 10 ml. of dry N,N-dimethylformamide is added dropwise over 5 minutes a solution of 0.5 g. (0.0024 mole) of 1-(3-hydroxybenzoyl)piperidine, prepared according to the method of G. Tilly, Chem. Ther. 2 (1), 57-65 (1967); C. A. 67 32432S, in 10 ml. of dry N,N-dimethylformamide. The mixture is stirred at room temperature for 5 minutes and then 0.64 g. (0.0024 mole) of N-(3-bromopropyl)phthalimide is added. The mixture is stirred at room temperature for 1 hour and is diluted with water to the cloudy point. The precipitate which forms is collected and is air dried to give 0.5 g. of product. A small amount is recrystallized from ethanol to give the analytical sample, m.p. 120°-122° C.

reactant | sodium hydride | 0.0024 mole | [H-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | 1-(3-hydroxybenzoyl)piperidine | 0.0024 mole | OC=1C=C(C(=O)N2CCCCC2)C=CC1 | C12H15NO2
reactant | N-(3-bromopropyl)phthalimide | 0.0024 mole | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | water | O | H2O
product | 1-[3-[3-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)propoxy]benzoyl]piperidine | O=C1N(C(C2=CC=CC=C12)=O)CCCOC=1C=C(C(=O)N2CCCCC2)C=CC1 | C23H24N2O4
